US04814506
There was added 80 ml of 30 w/v % aqueous solution of trimenthylamine to 20.00 g of (R)-3-chloro-1,2-propanediol (optical purity: 100% e.e., chemical purity: 99%). After stirring for 2 hours at room temperature, the reaction mixture was evaporated to dryness to give 30.40 g of (S)-2,3-dihydroxypropyltrimethylammonium chloride.

reactant | trimenthylamine | C1(CC(C(CC1)C(C)C)N(C1CC(CCC1C(C)C)C)C1CC(CCC1C(C)C)C)C | C30H57N
reactant | (R)-3-chloro-1,2-propanediol | 20.00 g | ClC[C@@H](CO)O | C3H7ClO2
product | (S)-2,3-dihydroxypropyltrimethylammonium chloride | 30.40 g | [Cl-].O[C@@H](C[N+](C)(C)C)CO | InChI=1S/C6H16NO2.ClH/c1-7(2,3)4-6(9)5-8;/h6,8-9H,4-5H2,1-3H3;1H/q+1;/p-1/t6-;/m0./s1
